US05324833
Fmoc-Asn(Trt)-OH
3.4 g of 9-fluorenylmethyl N-succinimidyl carbonate (10 mmol) are added and, at the same time, 1.4 ml of triethylamine are added dropwise so that the pH is 8.3-8.7 to a vigorously stirred solution of 3.8 g of H-Asn(Trt)-OH.0.5 H2O (10 mmol) in 20 ml of tetrahydrofuran, 10 ml of water and 1.4 ml of triethylamine (10 mmol). After 20 minutes, the mixture is cooled in an ice bath and ethyl acetate and 25 ml of a one-molar aqueous potassium bisulfate solution are added. The organic phase is washed with water until free of sulfate, dried over sodium sulfate and concentrated under reduced pressure to about 50 g. The Fmoc-Asn(Trt)-OH can be crystallized by slow addition of diisopropyl ether, m.p. 210°-211° (with decomposition).

reactant | 9-fluorenylmethyl N-succinimidyl carbonate | 10 mmol, 3.4 g | C1CC(=O)N(C1=O)OC(=O)OCC2C3=CC=CC=C3C4=CC=CC=C24 | C19H15NO5
reactant | triethylamine | 1.4 ml | C(C)N(CC)CC | C6H15N
reactant | H-Asn(Trt)-OH | 3.8 g | N[C@@H](CC(NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)O | C23H22N2O3
reactant | triethylamine | 10 mmol, 1.4 ml | C(C)N(CC)CC | C6H15N
reactant | potassium bisulfate | S([O-])(O)(=O)=O.[K+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | 10 ml | O | H2O
solvent | H2O | 10 mmol | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Fmoc-Asn(Trt)-OH | N([C@@H](CC(NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C38H32N2O5
